US09356243B2
2nd Step: 1-[2-(12H-11,12-diazaindeno[2,1-a]fluoren-11-yl)phenyl-sulfanyl]pyrrolidine-2,5-dione
27.3 g (75 mmol) of 2-(12H-11,12-diazaindeno[2,1-a]fluoren-11-yl)benzenethiol are added to a solution of 10 g (75 mmol) of NCS in 150 ml of CH2Cl2 at 0° C., 10.5 ml (75.3 mmol) of Et3N are subsequently added, and the mixture is stirred at room temperature for 18 h. The organic phase is dried over MgSO4, and the solvent is removed in vacuo. The residue is recrystallised from acetone and finally sublimed in a high vacuum. Yield: 30 g (66 mmol), 85% of theory, purity according to HPLC 88.3%.

reactant | 2-(12H-11,12-diazaindeno[2,1-a]fluoren-11-yl)benzenethiol | 75 mmol, 27.3 g | C1=C2NC=3C(=CC=C4C5=CC=CC=C5N(C34)C3=C(C=CC=C3)S)C2=CC=C1 | C24H16N2S
reactant | NCS | 75 mmol, 10 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | Et3N | 75.3 mmol, 10.5 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(12H-11,12-diazaindeno[2,1-a]fluoren-11-yl)phenyl-sulfanyl]pyrrolidine-2,5-dione | C1=C2NC=3C(=CC=C4C5=CC=CC=C5N(C34)C3=C(C=CC=C3)SN3C(CCC3=O)=O)C2=CC=C1 | C28H19N3O2S
